US04649144
Ethyl 3-(2,6-dichloro-5-fluoropyridin-3-yl)-3-oxo-propionate (1.4 g) prepared in Reference Example 10-(3) was allowed to react with 3-acetylaminopyrrolidine to give ethyl 3-[6-(3-acetylamino-1-pyrrolidinyl)-2-chloro-5-fluoropyridin-3-yl]-3-oxopropionate (0.78 g) as a oil. This compound (0.74 g) was treated with ethyl orthoformate and acetic anhydride, and the resulting oil, ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-chloro-5-fluoronicotinoyl]-3-ethoxyacrylate, was allowed to react with cyclopropylamine to give ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-chloro-5-fluoronicotinoyl]-3-cyclopropylaminoacrylate (0.43 g) as an amorphous powder, m.p. 71°-75° C.

reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-chloro-5-fluoronicotinoyl]-3-ethoxyacrylate | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)C(C(=O)OCC)=COCC)C=C1F)Cl | C19H23ClFN3O5
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-chloro-5-fluoronicotinoyl]-3-cyclopropylaminoacrylate | 0.43 g | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C1F)Cl | C20H24ClFN4O4
